US09193741B2
Synthesis of 7-chloro-2-(4-fluorophenyl)-oxazolo[5,4-d]pyrimidine
To a solution of N-(4,6-dihydroxypyrimidin-5-yl)-4-fluorobenzamide (0.30 g, 1.20 mmol) in POCl3 (6 ml) was added diisopropylethylamine (0.42 ml, 2.41 mmol). The reaction mixture was stirred under N2 at 90° C. for 3.5 hours. The reaction mixture was allowed to cool down to room temperature and the volatiles were evaporated to dryness. The residue was diluted with water and the aqueous phase was extracted with diethyl ether. The combined organic layers were washed with a saturated NaHCO3 solution and brine, dried over Na2SO4, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (CH2Cl2/MeOH 100:1) to yield the title compound as a white solid (0.13 g, 30%).

reactant | N-(4,6-dihydroxypyrimidin-5-yl)-4-fluorobenzamide | 1.20 mmol, 0.30 g | OC1=NC=NC(=C1NC(C1=CC=C(C=C1)F)=O)O | C11H8FN3O3
reactant | diisopropylethylamine | 2.41 mmol, 0.42 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | POCl3 | 6 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 7-chloro-2-(4-fluorophenyl)-oxazolo[5,4-d]pyrimidine | 0.13 g, 30% | ClC=1C2=C(N=CN1)OC(=N2)C2=CC=C(C=C2)F | C11H5ClFN3O
